US04211786
(B) DL-4,5-Dihydro-1-[3-(acetylthio)-1-oxopropyl]-3-phenyl-1H-pyrazole-5-carboxylic acid
A suspension of 8.0 g of 4,5-dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid in 200 ml of distilled water is treated slowly with 2.6 g of sodium carbonate. The solution is layered with 50 ml of ethyl acetate, cooled to 5° C. and treated with 7.0 g of 3-(acetylthio)propionyl chloride in 10 ml of ethyl acetate. The pH of the reaction mixture is maintained at 7.5-8.0 by the addition of concentrated sodium carbonate solution. The mixture is stirred at room temperature for 30 minutes. The ethyl acetate layer is then discarded and the aqueous layer is washed twice with fresh ethyl acetate. Using 6 N hydrochloric acid, the pH of the aqueous layer is adjusted to 2.5 and then it is extracted with two 100 ml portions of ethyl acetate. The combined extracts are dried over magnesium sulfate and concentrated to a point where precipitation begins. Cooling affords 10.6 g of the title compound, melting point 137°-139° C.

reactant | 4,5-dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid | 8.0 g | C1(=CC=CC=C1)C1=NNC(C1)C(=O)O | C10H10N2O2
reactant | sodium carbonate | 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(acetylthio)propionyl chloride | 7.0 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4,5-Dihydro-1-[3-(acetylthio)-1-oxopropyl]-3-phenyl-1H-pyrazole-5-carboxylic acid | 10.6 g | C(C)(=O)SCCC(=O)N1N=C(CC1C(=O)O)C1=CC=CC=C1 | C15H16N2O4S
